US05025036
A mixture of 9.5 g (0.037 mol) of 1-(3-bromopropyl)-3,4-dimethoxybenzene [G. H. Douglas, C. R. Walk and H. Smith, J. Med. Chem., 9, 27 (1966)], 7.0 g (0.033 mol) of 2,4-dihydroxy-3-propylbenzoic acid methyl ester, 6.9 g (0.05 mol) of potassium carbonate and 8.3 g (0.05 mol) of potassium iodide in 250 mL of acetone was stirred at reflux for 24 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to an oil which was purified by high pressure liquid chromatography using 15% ethyl acetate-hexane to give 7.2 g (56% yield) of 4-[3-(3,4-dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid methyl ester as an oil.

reactant | 1-(3-bromopropyl)-3,4-dimethoxybenzene | 0.037 mol, 9.5 g | BrCCCC1=CC(=C(C=C1)OC)OC | C11H15BrO2
reactant | 2,4-dihydroxy-3-propylbenzoic acid methyl ester | 0.033 mol, 7.0 g | COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C11H14O4
reactant | potassium carbonate | 0.05 mol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.05 mol, 8.3 g | [I-].[K+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 4-[3-(3,4-dimethoxyphenyl)propoxy]-2-hydroxy-3-propylbenzoic acid methyl ester | 7.2 g, 56% yield | COC(C1=C(C(=C(C=C1)OCCCC1=CC(=C(C=C1)OC)OC)CCC)O)=O | C22H28O6
